US06608227B1
Part E. Preparation of N-(3-acetylphenyl)-N′-({(2S)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methyl)urea
To a stirring solution of {(2S)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methanamine (58 mg, 2 mmol) in 2 ml of THF at 25° C. under N2 was added 3 acetylphenyl isocyanate (32 mg, 2 mmol Aldrich). Worked up after 4 hours by stripping off the THF then purifying over silica gel in 100% ethyl acetate followed by 4:1 chloroform/methanol. Obtained 11 mg of a white foam as product. MS (ESI) detects 452 (M+H).

reactant | {(2S)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methanamine | 2 mmol, 58 mg | FC1=CC=C(C[C@H]2CC[C@H](CC2)N2[C@@H](CCC2)CN)C=C1 | C18H27FN2
reactant | acetylphenyl isocyanate | 2 mmol, 32 mg | C(C)(=O)C1=C(C=CC=C1)N=C=O | C9H7NO2
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(3-acetylphenyl)-N′-({(2S)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methyl)urea | 11 mg | C(C)(=O)C=1C=C(C=CC1)NC(=O)NC[C@H]1N(CCC1)[C@@H]1CC[C@@H](CC1)CC1=CC=C(C=C1)F | C27H34FN3O2
